US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.15 g, 0.80 mmol), hydrocinnamoyl chloride (0.12 mL, 0.80 mmol), and poly(vinylpyridine) (0.5 g) in dichloroethane (8 mL) provided 3-phenyl-N-(6,7,8,9-tetrahydrodibenzo[b,d]furan-2-yl)propanamide (0.13 g) after flash column chromatography (elution with 35% ethyl acetate-hexanes). MS (ESI) m/z 320.

reactant | tetrahydro-dibenzofuran-2-ylamine | 0.80 mmol, 0.15 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | hydrocinnamoyl chloride | 0.80 mmol, 0.12 mL | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
solvent | dichloroethane | 8 mL | ClC(C)Cl | C2H4Cl2
product | 3-phenyl-N-(6,7,8,9-tetrahydrodibenzo[b,d]furan-2-yl)propanamide | 0.13 g | C1(=CC=CC=C1)CCC(=O)NC1=CC2=C(OC3=C2CCCC3)C=C1 | C21H21NO2
